US06878722B2
Step IIc) A solution of n-BuLi (74.7 mL, 119.5 mmol, 1.6 M in hexane) was dissolved in dry THF (105 mL) and cooled to −78° C. under a Argon atmosphere. To this solution was added a solution of 3-chloropropylsulfonylamine tert-butylcarbamate (14 g, 54.3 mmol) in dry THF (105 mL) slowly dropwise over 20-30 min. The dry ice bath was removed and the reaction mixture was allowed to warm to rt over a period of 2 h. The reaction mixture was quenched with glacial AcOH (3.4 mL), concentrated in vacuo, and partitioned between CH2Cl2 (100 mL) and water (100 mL). The organic phase was washed with brine (100 mL), dried (MgSO4), and concentrated in vacuo to afford the cyclopropylsulfonylamine tert-butyl carbamate as a waxy offwhite solid (12.08 g, 100%): 1H NMR (CDCl3) δ 1.10 (m, 2H), 1.34 (m, 2H), 1.50 (s, 9H), 2.88 (m, 1H), 7.43 (s, 1H). 13C NMR (CDCl3) δ 6.21, 28.00, 31.13, 84.07, 149.82.

reactant | n-BuLi | 119.5 mmol, 1.6 M, 74.7 mL | [Li]CCCC
reactant | 3-chloropropylsulfonylamine tert-butylcarbamate | 54.3 mmol, 14 g | C(C)(C)(C)NC(O)=O.ClCCCS(=O)(=O)N
solvent | THF | 105 mL | C1CCOC1 | C4H8O
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | cyclopropylsulfonylamine tert-butyl carbamate | C(C)(C)(C)NC(O)=O.C1(CC1)S(=O)(=O)N | InChI=1S/C5H11NO2.C3H7NO2S/c1-5(2,3)6-4(7)8;4-7(5,6)3-1-2-3/h6H,1-3H3,(H,7,8);3H,1-2H2,(H2,4,5,6)
